US07572922B2
1-(3,5-dichlorophenyl)-3-(4-methoxyphenyl)prop-2-yn-1-one
To a solution of 4-methoxy-1-ethynyl benzene (0.57 g, 4.27 mmol) in 20 mL of anhydrous THF cooled to −78° C. under a N2 atmosphere was added nButLi (3.2 mL, 5.12 mmol). After 5 minutes a solution of 3,5-dichloro-N-methoxy-N-methylbenzamide (1.0 g, 4.27 mmol) in THF (10 mL) was added to the reaction. The reaction was slowly warmed to −40° C. over 30 minutes and then quenched with saturated NH4Cl solution. The resulting bi-phasic mixture was extracted with EtOAc (3×). The organic layer was washed with brine, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography using 1:10 ethyl acetate-hexanes to give the title compound as a yellow solid. 1H NMR (CDCl3, 500 MHz): δ 8.09(d, J=2.0 Hz, 2H), 7.7(d, J=7.1 Hz, 2H), 7.64(t, J=1.8 Hz, 1H), 7.0(d, J=8.7 Hz, 1H), 3.91(s, 3H).

reactant | 4-methoxy-1-ethynyl benzene | 4.27 mmol, 0.57 g | COC1=CC=C(C=C1)C#C | C9H8O
reactant | nButLi | 5.12 mmol, 3.2 mL | C(CCC)[Li]
reactant | 3,5-dichloro-N-methoxy-N-methylbenzamide | 4.27 mmol, 1.0 g | ClC=1C=C(C(=O)N(C)OC)C=C(C1)Cl | C9H9Cl2NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(3,5-dichlorophenyl)-3-(4-methoxyphenyl)prop-2-yn-1-one | ClC=1C=C(C=C(C1)Cl)C(C#CC1=CC=C(C=C1)OC)=O | C16H10Cl2O2
